US04230707
P. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid
A suspension of ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylate (5.0 g, 0.018 mol) in 2 N hydrochloric acid (60 ml) is refluxed for 3 hours. The reaction mixture is cooled in an ice-bath. The precipitate is filtered, washed with water, with acetone and dried to give the product (3.5 g.), mp 325° C. (dec).

reactant | ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylate | 0.018 mol, 5.0 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)OCC)CCS2 | C13H12N2O3S
solvent | hydrochloric acid | 2 N, 60 ml | Cl | ClH
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CCS2 | C11H8N2O3S
